US09353108B2
L) 6-(1-((6-Cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-2-ethyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid
2M aqueous sodium hydroxide solution (20 mL) was added to a solution of methyl 6-(1-((6-cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-2-ethyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate (8.03 g) in methanol (25 mL) at 70° C. The mixture was stirred at the same temperature under nitrogen atmosphere for 2 hours. The mixture was neutralized with 1M hydrochloric acid at room temperature and added to water (100 mL). The mixture was stirred at 70° C. for 30 minutes and at room temperature for 2 hours to give colorless crystals. After filtration, the crystals were dissolved in ethanol. The solution was filtrated and the filtrate was concentrated in vacuo to give a colorless solid. The solid was recrystallized from ethanol-water (45 mL-130 mL) to give the title compound (7.26 g).

reactant | sodium hydroxide | 2M, 20 mL | [OH-].[Na+]
reactant | methyl 6-(1-((6-cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-2-ethyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 8.03 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OC(C)C)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CC)C(=O)OC)=O | C36H41F2N3O4
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | water | 100 mL | O | H2O
solvent | methanol | 25 mL | CO | CH4O
product | 6-(1-((6-Cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-2-ethyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid | 7.26 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OC(C)C)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CC)C(=O)O)=O | C35H39F2N3O4
